US08809352B2
4-((R)-3-Dimethylamino-1-phenylsulfanylmethyl-propylamino)-3-trifluoromethanesulfonyl-benzenesulfonamide
A solution of 4-fluoro-3-(trifluoromethylsulfonyl)benzenesulfonamide (685 mg, 2.3 mmol), (R)—N1,N1-dimethyl-4-phenylsulfanyl-butane-1,3-diamine (500 mg, 2.3 mmol), and DIPEA (0.78 mL, 4.5 mmol) in DMA (18.8 mL) was heated to 100° C. for 6 hours. The reaction was cooled to room temperature and diluted with EtOAc/heptanes (1:1, 50 mL). This solution was washed with water, the layers were separated, and the aqueous layer was extracted with EtOAc/heptanes (1:1) (50 mL×3). The combined organic layers were washed with water and brine, dried over MgSO4, and concentrated to afford the title compound as a yellow solid (965 mg, 82% yield). MS (ESI) m/e (M+H+): 512.2

reactant | 4-fluoro-3-(trifluoromethylsulfonyl)benzenesulfonamide | 2.3 mmol, 685 mg | FC1=C(C=C(C=C1)S(=O)(=O)N)S(=O)(=O)C(F)(F)F | C7H5F4NO4S2
reactant | (R)—N1,N1-dimethyl-4-phenylsulfanyl-butane-1,3-diamine | 2.3 mmol, 500 mg | CN(CC[C@H](CSC1=CC=CC=C1)N)C | C12H20N2S
reactant | DIPEA | 4.5 mmol, 0.78 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 18.8 mL | CC(=O)N(C)C | C4H9NO
product | 4-((R)-3-Dimethylamino-1-phenylsulfanylmethyl-propylamino)-3-trifluoromethanesulfonyl-benzenesulfonamide | 965 mg, 82% yield | CN(CC[C@H](CSC1=CC=CC=C1)NC1=C(C=C(C=C1)S(=O)(=O)N)S(=O)(=O)C(F)(F)F)C | C19H24F3N3O4S3
